US06103708
(2-n-Butyl-benzofuran-3-yl)-(2'-[(2-methoxyethoxy)methoxy]-[1,1';3',1"]terphenyl-5'-yl)-methanone
At ambient temperature, to a stirred mixture containing phenylboronic acid (0.454 g, 3.73 mmol), barium hydroxide octahydrate (1.60 g, 5.08 mmol) and palladium (II) acetate (7.60 mg, 0.0339 mmol) in DME:H2O (6:1, 20 mL) was added a solution of 2-n-butyl-3-(4-[(2-methoxyethoxy)methoxy]-3,5-diiodobenzoyl)benzofuran (1.07 g, 1.69 mmol) in DME:H2O (6:1, 20 mL). After the addition was complete, the reaction was heated at 80° C. for 16 h. The reaction was cooled to ambient temperature, diluted with ether (50 mL), washed sequentially with sat. aq. NaHCO3 (3×), with brine (3×), dried (MgSO4) and concentrated. The crude product was purified on Biotage KP-Sil eluting with 25% ether/pet. ether to give 0.380 g (42%) of the title compound. 1H NMR (DMSO-d6) δ 0.76 (t, 3 H), 1.22 (sextet, 2 H), 1.64 (quintet, 2 H), 2.81-2.92 (m, 6 H), 3.03 (s, 3 H), 4.44 (s, 2 H), 7.31-7.67 (m, 14 H), 7.76 (s, 2 H).

reactant | phenylboronic acid | 3.73 mmol, 0.454 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | barium hydroxide octahydrate | 5.08 mmol, 1.60 g | O.O.O.O.O.O.O.O.[OH-].[Ba+2].[OH-]
reactant | 2-n-butyl-3-(4-[(2-methoxyethoxy)methoxy]-3,5-diiodobenzoyl)benzofuran | 1.69 mmol, 1.07 g | C(CCC)C=1OC2=C(C1C(C1=CC(=C(C(=C1)I)OCOCCOC)I)=O)C=CC=C2 | C23H24I2O5
solvent | DME H2O | 20 mL | COCCOC.O
solvent | DME H2O | 20 mL | COCCOC.O
solvent | ether | 50 mL | CCOCC | C4H10O
catalyst | palladium (II) acetate | 0.0339 mmol, 7.60 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (2-n-Butyl-benzofuran-3-yl)-(2'-[(2-methoxyethoxy)methoxy]-[1,1';3',1"]terphenyl-5'-yl)-methanone | 0.380 g, 42% | C(CCC)C=1OC2=C(C1C(=O)C=1C=C(C(=C(C1)C1=CC=CC=C1)OCOCCOC)C1=CC=CC=C1)C=CC=C2 | C35H34O5
